US07842688B2
a) tert-Butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-[4-(4-methoxybutyryl)-3,4-dihydro-2H-benzo[1,4]oxazin-2(R,S)-ylmethoxy]piperidine-1-carboxylate
A solution of 0.33 g of tert-butyl 3-(3,4-dihydro-2H-benzo[1,4]oxazin-2(R,S)-ylmethoxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate in 40 ml of chloroform and 0.23 ml of triethylamine is admixed at room temperature with 0.23 g of 4-methoxybutyryl chloride and stirred over 30 minutes. The reaction mixture is washed successively with 1N HCl and 1N NaOH, dried over sodium sulphate and concentrated by evaporation. The title compound is obtained as a colourless oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.27 (1:1.5 EtOAc-heptane); Rt=6.05.

reactant | tert-butyl 3-(3,4-dihydro-2H-benzo[1,4]oxazin-2(R,S)-ylmethoxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 0.33 g | O1C(CNC2=C1C=CC=C2)COC2CN(CCC2C2=CC=C(C=C2)OCCCOCC2=C(C=CC=C2)OC)C(=O)OC(C)(C)C | C36H46N2O7
reactant | 4-methoxybutyryl chloride | 0.23 g | COCCCC(=O)Cl | C5H9ClO2
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 0.23 ml | C(C)N(CC)CC | C6H15N
product | tert-Butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-[4-(4-methoxybutyryl)-3,4-dihydro-2H-benzo[1,4]oxazin-2(R,S)-ylmethoxy]piperidine-1-carboxylate | COC1=C(COCCCOC2=CC=C(C=C2)C2C(CN(CC2)C(=O)OC(C)(C)C)OCC2OC3=C(N(C2)C(CCCOC)=O)C=CC=C3)C=CC=C1 | C41H54N2O9
